US05352400
1-Isopropyl-3-[2-(3-isopropenylphenyl)-2-propyl]carbodiimide
We combined 0.1145 g TPAO, 60.45 g of m-TMI, and 28.42 g 1,3-diisopropylcarbodiimide. After heating at 150° C. for 2 hours, a further 0.1047 g triphenylarsine oxide (TPAO) was added. Heating was continued 3 further hours. A further 0.1084 g triphenylarsine oxide (TPAO) was added. Heating was continued 6 further hours. IR showed nearly complete conversion of isocyanates to carbodiimides. Material was distilled to obtain in 50% recovery a purified sample of the title product, as verified by 1H--NMR.

reactant | TPAO | 0.1145 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15AsO
reactant | m-TMI | 60.45 g | CC(=C)C1=CC(=CC=C1)C(C)(C)N=C=O | C13H15NO
reactant | 1,3-diisopropylcarbodiimide | 28.42 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | triphenylarsine oxide | 0.1047 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15AsO
reactant | triphenylarsine oxide | 0.1084 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15AsO
product | 1-Isopropyl-3-[2-(3-isopropenylphenyl)-2-propyl]carbodiimide | C(C)(C)N=C=NC(C)(C)C1=CC(=CC=C1)C(=C)C | C16H22N2
